### PR TITLE
ex 1 and 7 progress

### PR DESCRIPTION
**Pull request by ARazaMaths**

### CODE REVIEW

File: M1FExplained/Chapter25/Exercises/Exercise01.lean [hunk 1]
```diff
@@ -0,0 +1,197 @@
+import Mathlib.Algebra.Group.Defs
+import Mathlib.Data.Complex.Basic
+import Mathlib.Analysis.Complex.Basic
+import Mathlib.Data.Nat.Basic
+abbrev complex_size_1 :=
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise01.lean:16]: Probably a newline above the abbrev here would make things more readable

File: M1FExplained/Chapter25/Exercises/Exercise01.lean [hunk 2]
```diff
@@ -0,0 +1,197 @@
...
+{ z : ℂ // ‖z‖  = 1 }
+
+instance one : One complex_size_1 := ⟨1,  by exact CstarRing.norm_one⟩
+
+@[simp]
+lemma coe_one : (↑(1 : complex_size_1) : ℂ) = 1 := by rfl
+
+lemma mul_closed (a b : complex_size_1) : ‖(a : ℂ) * b‖ = 1 := by
+  rw [norm_mul, a.2,b.2,mul_one]
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise01.lean]:
```suggestion
  rw [norm_mul, a.2,b.2, mul_one]
```

File: M1FExplained/Chapter25/Exercises/Exercise01.lean [hunk 3]
```diff
@@ -0,0 +1,197 @@
...
+instance : Mul complex_size_1 where mul a b:= ⟨a.1 * b.1, mul_closed a b⟩
+
+@[simp]
+lemma coe_mul (a b : complex_size_1) : (↑(a * b) : ℂ) = ↑a * ↑b := by
+  rfl
+
+lemma ne_zero (a : complex_size_1) : (a : ℂ) ≠ 0 := by
+  intro h
+  apply_fun norm at h
+  rw [a.2, norm_zero,] at h
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise01.lean]:
```suggestion
  rw [a.2, norm_zero] at h
```

File: M1FExplained/Chapter25/Exercises/Exercise01.lean [hunk 4]
```diff
@@ -0,0 +1,197 @@
...
+  norm_num at h
+
+noncomputable instance : Group complex_size_1 where
+  mul a b:= ⟨a.1 * b.1, mul_closed a b⟩
+  mul_assoc := by 
+    intro a b c
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise01.lean]: Can you do something likw `mul_assoc a b c := by` or `mul_assoc {a b c} := by` or `mul_assoc {a, b, c} := by -- to avoid the `intro`? I can't remember the syntax but I think something like this works

File: M1FExplained/Chapter25/Exercises/Exercise01.lean [hunk 5]
```diff
@@ -0,0 +1,197 @@
...
+  one := 1
+  one_mul := by
+    intro a
+    ext1
+    simp
+  mul_one := by
+    intro a
+    ext1
+    simp
+  inv z := ⟨z.1⁻¹, by rw [norm_inv,z.2,inv_one]⟩
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise01.lean]:
```suggestion
  inv z := ⟨z.1⁻¹, by rw [norm_inv,z.2, inv_one]⟩
```

File: M1FExplained/Chapter25/Exercises/Exercise01.lean [hunk 6]
```diff
@@ -0,0 +1,197 @@
...
+    ext1
+    simp [inv_mul_cancel]
+    rw [inv_mul_cancel]
+    exact ne_zero a
+
+--- part ii
+abbrev real_not_minus_1 :=
+{x : ℝ // x ≠ -1}
+
+instance zero : Zero real_not_minus_1 := ⟨0,  by norm_num⟩
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise01.lean]:
```suggestion
instance zero : Zero real_not_minus_1 := ⟨0, by norm_num⟩ 
```

File: M1FExplained/Chapter25/Exercises/Exercise01.lean [hunk 7]
```diff
@@ -0,0 +1,197 @@
...
+
+lemma add_closed2 (a b : real_not_minus_1) : (a : ℝ) * b + a + b ≠ -1 := by
+  by_contra h
+  have h₁ : (a.1 + 1) * (b.1 + 1) = 0 :=
+    calc
+      (a.1 + 1) * (b.1 + 1) = a.1 * b.1 + a.1 + b.1 + 1 := by ring
+      _ = 0 := by
+        rw [h]
+        norm_num
+  have h₂ : a.1 + 1 = 0 ∨ b.1 + 1 = 0 := Iff.mp zero_eq_mul (id (Eq.symm h₁))
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise01.lean]: This proof looks like some complicated way to do something like `rw [zero_eq_mul] at h1`?

File: M1FExplained/Chapter25/Exercises/Exercise01.lean [hunk 8]
```diff
@@ -0,0 +1,197 @@
...
+  intro h
+  simp at h
+  have : a.1 + 1 ≠ 0 := by
+    have := a.2
+    intro h₀
+    apply this
+    exact Iff.mp add_eq_zero_iff_eq_neg h₀
+  have h₁ : a.1/(a.1 + 1) = 1  := by
+    calc
+      a.1/ (a.1 + 1) = -(-a.1/(a.1 + 1)) := by ring
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise01.lean]: You're not consistent with your spacing. I guess I would prefer the mathlib style `a / b` but definitely not `a/ b` :-)

File: M1FExplained/Chapter25/Exercises/Exercise01.lean [hunk 9]
```diff
@@ -0,0 +1,197 @@
...
+      _ = a.1 + 1 := by
+        rw [h₁]
+        ring
+  simp at h₂
+
+noncomputable instance : Neg real_not_minus_1 where
+  neg a := ⟨-a/(a + 1), neg_real_neq_one a⟩
+
+@[norm_cast]
+lemma coe_neg (a : real_not_minus_1) : (-a : real_not_minus_1) = -(a : ℝ)/(a+1) := by rfl
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise01.lean]: This should be `a + 1` whatever your conventions are on spacing around `/`

File: M1FExplained/Chapter25/Exercises/Exercise01.lean [hunk 10]
```diff
@@ -0,0 +1,197 @@
...
+    push_cast
+    norm_num
+  add_left_neg := by
+    intro a
+    unfold real_not_minus_1
+    ext
+    push_cast
+    calc
+      _ = -a.1/(a.1+1) *a.1 + -a.1/(a.1 + 1) + (a.1 * (a.1 +1))/(a.1 + 1) := by
+        simp
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise01.lean]: spacing is all over the place on previous line, and `simp` should not be used except to close a goal -- if you really have to use it in the middle of a proof use `simp?` and then replace with `simp only ...`.

File: M1FExplained/Chapter25/Exercises/Exercise01.lean [hunk 11]
```diff
@@ -0,0 +1,197 @@
...
+noncomputable instance add_part_iv : Add part_iv where
+  add a b:= ⟨max a.1 b.1, add_close_part_iv a b⟩
+
+@[simp]
+lemma add_part_iv_coe (a b : part_iv): (a + b : part_iv) = max (a : ℝ) b := by rfl 
+
+example (a b : part_iv) (h : a.1 > 0): a.1 + b.1 ≠ 0 := by
+  intro h₀
+  norm_cast at h₀
+  simp at h₀
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise01.lean]: `simp` should only be used to close goals. Please replace with the output of `simp?`

File: M1FExplained/Chapter25/Exercises/Exercise07.lean [hunk 12]
```diff
@@ -0,0 +1,351 @@
+import Mathlib.Algebra.Group.Defs
+import Mathlib.Data.Complex.Basic
+import Mathlib.Analysis.Complex.Basic
+import Mathlib.Data.Nat.Basic
+
+abbrev set1 : Set ℂ :=  {1, -1,Complex.I, -Complex.I}
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise07.lean]: spacing

**Review by kbuzzard — COMMENTED** [review]
This PR is hard to review because it's very long (I've looked at half of it so far). Ideally a PR should be doing one thing, not lots of things.

File: M1FExplained/Chapter25/Exercises/Exercise01.lean [hunk 13]
```diff
@@ -0,0 +1,197 @@
...
+
+instance one : One complex_size_1 := ⟨1, by exact CstarRing.norm_one⟩
+
+@[simp]
+lemma coe_one : (↑(1 : complex_size_1) : ℂ) = 1 := by rfl
+
+lemma mul_closed (a b : complex_size_1) : ‖(a : ℂ) * b‖ = 1 := by
+  rw [norm_mul, a.2, b.2, mul_one]
+
+--- part i
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise01.lean]: Can you include the statement of the problem so the file is easier to understand?

File: M1FExplained/Chapter25/Exercises/Exercise01.lean [hunk 14]
```diff
@@ -0,0 +1,197 @@
...
+    simp
+  inv z := ⟨z.1⁻¹, by rw [norm_inv, z.2, inv_one]⟩
+  mul_left_inv := by
+    intro a
+    ext1
+    simp [inv_mul_cancel]
+    rw [inv_mul_cancel]
+    exact ne_zero a
+
+--- part ii
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise01.lean]: Similarly here

File: M1FExplained/Chapter25/Exercises/Exercise01.lean (hunk 7 above)
Comment (kbuzzard) [reply M1FExplained/Chapter25/Exercises/Exercise01.lean]: Yeah you can just do `rw [mul_eq_zero] at h₁` and then change h2 to h1 on line 69

File: M1FExplained/Chapter25/Exercises/Exercise01.lean [hunk 15]
```diff
@@ -0,0 +1,197 @@
...
+    calc
+      (a.1 + 1) * (b.1 + 1) = a.1 * b.1 + a.1 + b.1 + 1 := by ring
+      _ = 0 := by
+        rw [h]
+        norm_num
+  have h₂ : a.1 + 1 = 0 ∨ b.1 + 1 = 0 := Iff.mp zero_eq_mul (id (Eq.symm h₁))
+  have h₃ : a.1 = -1 ∨ b.1 = -1 := by 
+    rcases h₂ with (h | h₁)
+    left
+    exact Iff.mp add_eq_zero_iff_eq_neg h
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise01.lean]:
```suggestion
    rwa [← add_eq_zero_iff_eq_neg]
```
I think that's more readable. Similarly line 73.

File: M1FExplained/Chapter25/Exercises/Exercise01.lean [hunk 16]
```diff
@@ -0,0 +1,197 @@
...
+    right
+    exact Iff.mp add_eq_zero_iff_eq_neg h₁
+  unfold real_not_minus_1 at a b
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise01.lean]:
```suggestion
```
It's not needed; Lean can see through the definition.

File: M1FExplained/Chapter25/Exercises/Exercise01.lean [hunk 17]
```diff
@@ -0,0 +1,197 @@
...
+  rcases h₃ with (h₄|h₅)
+  have := a.2
+  exact this h₄
+  have := b.2
+  exact this h₅
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise01.lean]:
```suggestion
  · exact a.2 h₄
  · exact b.2 h₅
```

File: M1FExplained/Chapter25/Exercises/Exercise01.lean [hunk 18]
```diff
@@ -0,0 +1,197 @@
...
+lemma rnm1_coe_add (a b : real_not_minus_1) : (a + b : real_not_minus_1) = (a : ℝ) * b + a + b := by rfl
+
+lemma add_assoc2 (a b c : real_not_minus_1) : a + b + c = a + (b + c) := by
+  ext
+  push_cast
+  ring
+
+lemma neg_real_neq_one (a : real_not_minus_1) : -a.1 / (a.1 + 1) ≠ -1 := by
+  intro h
+  simp at h
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise01.lean]: You shouldn't be using `simp` like this. `simp` should only be used to close a goal. See what `simp` is doing with `simp?` and do that instead.

File: M1FExplained/Chapter25/Exercises/Exercise01.lean [hunk 19]
```diff
@@ -0,0 +1,197 @@
...
+  have : a.1 + 1 ≠ 0 := by
+    have := a.2
+    intro h₀
+    apply this
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise01.lean]:
```suggestion
    intro h₀
    apply a.2
```

File: M1FExplained/Chapter25/Exercises/Exercise01.lean [hunk 20]
```diff
@@ -0,0 +1,197 @@
...
+    push_cast
+    norm_num
+  add_zero := by
+    intro a
+    ext
+    push_cast
+    norm_num
+  add_left_neg := by
+    intro a
+    unfold real_not_minus_1
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise01.lean]:
```suggestion
```

File: M1FExplained/Chapter25/Exercises/Exercise01.lean [hunk 21]
```diff
@@ -0,0 +1,197 @@
...
+    ext
+    push_cast
+    calc
+      _ = -a.1 / (a.1 + 1) * a.1 + -a.1 / (a.1 + 1) + (a.1 * (a.1 + 1)) / (a.1 + 1) := by
+        simp only [ne_eq, add_right_inj]
+        have : a.1 + 1 ≠ 0 := by
+          have := a.2
+          intro h₀
+          apply this
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise01.lean]:
```suggestion
          apply a.2
```
and remove the `have := a.2`

File: M1FExplained/Chapter25/Exercises/Exercise01.lean [hunk 22]
```diff
@@ -0,0 +1,197 @@
...
+          exact Iff.mp add_eq_zero_iff_eq_neg h₀
+        exact Iff.mpr (eq_div_iff this) rfl
+      _ = 0 := by ring
+
+-- part iv
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise01.lean]: What's the question?

File: M1FExplained/Chapter25/Exercises/Exercise04.lean [hunk 23]
```diff
@@ -0,0 +1,33 @@
...
+
+/- a) Show that if G is an abelian group and n is an integer, then (a * b)^n = a^n * b^n for all a, b, ∈ G.
+   b) Give an example of a group G, an integer n, and elements a, b ∈ G such that (a * b)^n ≠ a^n * b^n. -/
+
+
+--- part a)
+
+example {G : Type u_1} [CommGroup G] (a b : G) (n : ℕ) : (a*b)^n = a^n*b^n := by
+  induction' n with n ih
+  · rw [pow_zero, pow_zero, pow_zero, mul_one]
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise04.lean]: The simplifier will know `pow_zero` and `mul_one` because both of them are manifestly great simp lemmas: the LHS is obviously more complex than the RHS and always wants to be simplified to it. So probably `simp` works fine here (as it often does in the base case of an induction).

File: M1FExplained/Chapter25/Exercises/Exercise04.lean [hunk 24]
```diff
@@ -0,0 +1,33 @@
...
+    mul_comm (b^(n+1)), ← mul_assoc, ← pow_add]
+
+
+--- part b)
+/- Here G = S_3, n = 1, a = (1 2) and b = (2 3) -/
+
+example : ∃ (a b : Equiv.Perm (Fin 3)),  (a * b) ≠ (b * a) := by
+  use Equiv.swap 0 1
+  use Equiv.swap 1 2
+  intro h
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise04.lean:28]: Not for this PR but I feel like `decide` should now work -- but it doesn't. This means that there is no algorithm implemented for checking the equality of two permutations on a finite set with decidable equality, and if someone implemented one then `decide` would probably work at this point.

File: M1FExplained/Chapter25/Exercises/Exercise07.lean [hunk 25]
```diff
@@ -0,0 +1,351 @@
...
+
+instance : One set2 where
+  one := ⟨1,by tauto⟩
+
+lemma closed_mul (a b : set1) : (↑a : ℂ) * b ∈ set1 := by
+  cases' a with a ha
+  cases' b with b hb
+  rcases ha with (rfl|rfl|rfl|rfl) <;> rcases hb with (rfl|rfl|rfl|rfl) <;> norm_num
+
+
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise07.lean]:
```suggestion
```

File: M1FExplained/Chapter25/Exercises/Exercise07.lean [hunk 26]
```diff
@@ -0,0 +1,351 @@
...
+
+instance : Mul set1 where
+  mul a b := ⟨a.1*b.1,closed_mul a b⟩
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise07.lean]:
```suggestion
  mul a b := ⟨a.1 * b.1, closed_mul a b⟩
```

File: M1FExplained/Chapter25/Exercises/Exercise07.lean [hunk 27]
```diff
@@ -0,0 +1,351 @@
...
+@[simp,norm_cast]  
+lemma set1_coe_mul (a b : set1) : (a * b : set1) = (a : ℂ) * b := by rfl
+
+lemma closed_mul2 (a b : set2) : (a : ℤ) * b ∈ set2 := by
+  cases' a with a ha
+  cases' b with b hb
+  rcases ha with (rfl|rfl) <;> rcases hb with (rfl|rfl) <;> norm_num
+
+instance : Mul set2 where
+  mul a b := ⟨a*b,closed_mul2 a b⟩
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise07.lean]: spacing

File: M1FExplained/Chapter25/Exercises/Exercise07.lean [hunk 28]
```diff
@@ -0,0 +1,351 @@
...
+lemma set2_coe_mul (a b : set2): (a * b : set2) = (a : ℤ) * b := by rfl
+
+lemma closed_pow (a : set1) (c : set2) : (a : ℂ) ^ (c : ℤ) ∈ set1 := by
+  cases' a with a ha
+  cases' c with b hc
+  rcases ha with (rfl|rfl|rfl|rfl) <;> rcases hc with (rfl|rfl) <;> norm_num
+  right
+  right
+  left
+  simp
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise07.lean]: Not only is this a non-terminal `simp` but it doesn't even do anything.

File: M1FExplained/Chapter25/Exercises/Exercise07.lean [hunk 29]
```diff
@@ -0,0 +1,351 @@
...
+  hPow a c := ⟨a.1^c.1, closed_pow a c⟩   
+
+@[simp,norm_cast]
+lemma coe_pow (a : set1) (b : set2) : (a^b : set1) = (a : ℂ)^(b : ℤ) := by rfl
+
+noncomputable instance : Mul D where 
+  mul a b := ⟨a.1*b.1^a.2,a.2*b.2⟩
+
+@[simp]
+lemma mul_first (a b : D): (a * b).fst = a.1*b.1^a.2 := by rfl
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise07.lean]: Some people like to write `a^n` rather than `a ^ n` but I think we still need spaces around the `*`

File: M1FExplained/Chapter25/Exercises/Exercise07.lean [hunk 30]
```diff
@@ -0,0 +1,351 @@
...
+
+@[simp]
+lemma mul_snd (a b : D) : (a * b).snd = a.2 * b.2 := by rfl
+
+lemma mul_assocD (a b c : D): a*b*c = a * (b * c) := by
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise07.lean]: spacing

File: M1FExplained/Chapter25/Exercises/Exercise07.lean [hunk 31]
```diff
@@ -0,0 +1,351 @@
...
+  unfold D
+  ext1
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise07.lean]: `apply Prod.ext` also works (not sure if it's better though)

File: M1FExplained/Chapter25/Exercises/Exercise07.lean [hunk 32]
```diff
@@ -0,0 +1,351 @@
...
+  · repeat rw[mul_first]
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise07.lean]: space after rw

File: M1FExplained/Chapter25/Exercises/Exercise07.lean [hunk 33]
```diff
@@ -0,0 +1,351 @@
...
+    rw [mul_snd]
+    ext1
+    push_cast
+    rw [mul_zpow,mul_comm (a.snd : ℤ),zpow_mul,mul_assoc]
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise07.lean]: space after commas

File: M1FExplained/Chapter25/Exercises/Exercise07.lean [hunk 34]
```diff
@@ -0,0 +1,351 @@
...
+    ext
+    push_cast
+    rw [mul_assoc]
+
+instance : One D := ⟨(1,1)⟩ 
+
+@[simp]
+lemma one_first : (1 : D).fst = 1 := by rfl
+
+@[simp,norm_cast]
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise07.lean]: space after comma

File: M1FExplained/Chapter25/Exercises/Exercise07.lean [hunk 35]
```diff
@@ -0,0 +1,351 @@
...
+lemma set_two_coe_one : ((1 : set2) : ℤ) = 1 := rfl
+
+
+lemma one_mulD (a : D) : 1*a = a := by
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise07.lean]: spaces around `*`

File: M1FExplained/Chapter25/Exercises/Exercise07.lean [hunk 36]
```diff
@@ -0,0 +1,351 @@
...
+  · rw [mul_first]
+    ext1
+    push_cast
+    simp
+  · rw [mul_snd]
+    ext
+    push_cast
+    simp
+
+lemma mul_oneD (a : D) : a*1 = a := by
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise07.lean]: spaces around `*`

File: M1FExplained/Chapter25/Exercises/Exercise07.lean [hunk 37]
```diff
@@ -0,0 +1,351 @@
...
+
+instance : Neg set2 where 
+  neg a := ⟨-a.1, neg_set2 a⟩  
+
+@[simp,norm_cast]
+lemma neg_coe (a : set2) : (-a : set2) = -(a : ℤ) := by rfl
+
+
+noncomputable instance : Inv D where
+  inv a := ⟨a.1^(-a.2),a.2⟩
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise07.lean]: space after comma

File: M1FExplained/Chapter25/Exercises/Exercise07.lean [hunk 38]
```diff
@@ -0,0 +1,351 @@
...
+
+
+@[simp]
+lemma inv_first (a : D): (a⁻¹).fst = a.1^(-a.2) := by rfl
+
+@[simp]
+lemma inv_snd (a : D) : (a⁻¹).snd = (a.2) := by rfl
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise07.lean]: I'm guessing you don't need the brackets around a.2

File: M1FExplained/Chapter25/Exercises/Exercise07.lean [hunk 39]
```diff
@@ -0,0 +1,351 @@
...
+
+lemma set1_ne_zero (a : set1) : (a : ℂ) ≠ 0 := by
+  cases' a with a ha
+  rcases ha with (rfl|rfl|rfl|rfl)  <;> norm_num
+  intro h
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise07.lean]: You have two goals here so should use `\.` or `{ ... }`

File: M1FExplained/Chapter25/Exercises/Exercise07.lean [hunk 40]
```diff
@@ -0,0 +1,351 @@
...
+lemma mul_left_invD (a : D): a⁻¹ * a = 1 := by
+  unfold D
+  ext1
+  · simp
+    rw [mul_first]
+    ext1
+    push_cast
+    rw [inv_first, inv_snd]
+    push_cast
+    simp
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise07.lean]: This is either a non-terminal simp (if you have one goal) or you should be using {} brackets (if you have more than one goal)

File: M1FExplained/Chapter25/Exercises/Exercise07.lean [hunk 41]
```diff
@@ -0,0 +1,351 @@
...
+  elems := List.toFinset [(⟨1,by norm_num⟩ : set1),⟨-1,by norm_num⟩,⟨Complex.I,by norm_num⟩,⟨-Complex.I,by norm_num⟩]
+  complete := by
+    rintro ⟨x,(rfl|rfl|rfl|rfl)⟩ <;> simp
+
+noncomputable instance : Fintype set1 := Set.fintypeInsert 1 _
+
+noncomputable instance : Fintype set2 := Set.fintypeInsert 1 _
+
+theorem card_eq_four : Fintype.card set1 = 4 := by
+  simp [set1]
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise07.lean]: non-terminal `simp`.

File: M1FExplained/Chapter25/Exercises/Exercise07.lean [hunk 42]
```diff
@@ -0,0 +1,351 @@
...
+    simp [Complex.ext_iff]
+    try norm_num
+
+theorem card_eq_two : Fintype.card set2 = 2 := by rfl
+
+noncomputable instance : Fintype D := by unfold D ; infer_instance
+
+theorem card_eq_eight : Fintype.card D = 8 := by
+  unfold D
+  rw [Fintype.card_prod,card_eq_four, card_eq_two]
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise07.lean]: space after comma

File: M1FExplained/Chapter25/Exercises/Exercise07.lean [hunk 43]
```diff
@@ -0,0 +1,351 @@
...
+
+---part ii)
+
+def i : set1 := ⟨Complex.I, by tauto⟩ 
+def a : D := (i , 1)
+def b : D := (1, -1)
+set_option pp.proofs.withType false
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise07.lean]: Do you need this??

File: M1FExplained/Chapter25/Exercises/Exercise07.lean [hunk 44]
```diff
@@ -0,0 +1,351 @@
...
+lemma foo (d : D) (h₀ : d.snd = 1) : ∃ n : ℕ, n ≤ 3 ∧ d = a^n := by
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise07.lean]: Needs a better name. `eq_pow_a_of_snd_eq_one` or something?

File: M1FExplained/Chapter25/Exercises/Exercise07.lean [hunk 45]
```diff
@@ -0,0 +1,351 @@
...
+  cases' d with x y
+  dsimp at h₀
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise07.lean]: non-terminal simp

File: M1FExplained/Chapter25/Exercises/Exercise07.lean [hunk 46]
```diff
@@ -0,0 +1,351 @@
...
+  · use 0
+    rw [pow_zero]
+    constructor
+    norm_num
+    exact rfl
+  · use 2
+    constructor
+    norm_num
+    apply Prod.ext
+    · dsimp
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise07.lean]: non-terminal simp (use `dsimp only` if you're just tidying up a term)

File: M1FExplained/Chapter25/Exercises/Exercise07.lean [hunk 47]
```diff
@@ -0,0 +1,351 @@
...
+      rw [mul_snd]
+      unfold a
+      dsimp
+      ext1
+      push_cast
+
+
+lemma b_self_inv : b * b = 1 := by
+  apply Prod.ext
+  · dsimp
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise07.lean]: non-terminal simp

File: M1FExplained/Chapter25/Exercises/Exercise07.lean [hunk 48]
```diff
@@ -0,0 +1,351 @@
...
+    unfold b
+    dsimp
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise07.lean]: and another one.

File: M1FExplained/Chapter25/Exercises/Exercise07.lean [hunk 49]
```diff
@@ -0,0 +1,351 @@
...
+    ext1
+    push_cast
+
+
+lemma bar (d : D) (h₀ : d.snd = -1) : ∃ d' : D, d'.snd = 1 ∧ d = d' * b := by
+  use d * b
+  constructor
+  unfold b
+  dsimp
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise07.lean]: non-terminal simp

File: M1FExplained/Chapter25/Exercises/Exercise07.lean [hunk 50]
```diff
@@ -0,0 +1,351 @@
...
+  rw [h₀]
+  norm_num
+  rw [mul_assoc, b_self_inv, mul_one]
+
+lemma a_four: a^4 = 1 := by 
+  apply Prod.ext
+  · dsimp
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise07.lean]: and another

File: M1FExplained/Chapter25/Exercises/Exercise07.lean [hunk 51]
```diff
@@ -0,0 +1,351 @@
...
+    unfold a
+    repeat rw [pow_succ]
+    ext1
+    push_cast
+    dsimp
+    norm_num
+    unfold i
+    dsimp
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise07.lean]: and several more here above and below

File: M1FExplained/Chapter25/Exercises/Exercise07.lean [hunk 52]
```diff
@@ -0,0 +1,351 @@
...
+
+lemma set2.eq_one_or_neg_one  (a : set2) : a = 1 ∨ a = -1 := by
+  cases' a with a ha
+  rcases ha with (rfl|rfl)
+  · left
+    rfl
+  · right
+    rfl
+
+theorem name : Set.univ = {1,a,a^2,a^3,b,a*b,a^2*b,a^3*b} := by
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise07.lean]: you could call it `part_iv` or whatever part it is

File: M1FExplained/Chapter26/Exercises/Exercise10.lean [hunk 53]
```diff
@@ -0,0 +1,24 @@
...
+(c) True or false: if a, m, n are positive integers such that hcf(a, n) = hcf(m,φ (n)) = 1, then
+                            a^m ≡ 1 mod n ⇒ a ≡ 1 mod n.
+-/
+
+--- part a)
+example :  37^98 ≡ 1 [MOD 24] := by norm_num 
+
+--- part b)
+example (a n : ℕ) (h₀ : a > 0) (h₁ : b > 0) (h₂ : a.coprime n): ¬ (a^2 ≡ 1 [MOD n] → (a ≡  1 [MOD n])
+∨ (a ≡ n-1 [MOD n])) := by
```
Comment (kbuzzard) [inline M1FExplained/Chapter26/Exercises/Exercise10.lean]: This is not provable because you've formalised the statement incorrectly. The `not` needs to be before `a` and `n`

**Comment by kbuzzard** [comment]
Thanks!
